US07858640B2
[2-difluoromethoxy-8-fluoro-3-(4-fluorobenzyl)-4-methylquinolin-5-yloxy]acetic Acid Methyl Ester
A mixture of [8-fluoro-3-(4-fluorobenzyl)-4-methyl-2-oxo-1,2-dihydroquinolin-5-yloxy]acetic acid methyl ester (0.48 g), N,N-dimethylformamide (6.0 mL), potassium carbonate (0.72 g) and acetic acid chlorodifluoromethyl ester (1.7 mL) was stirred at 70° C. for 5 days. The mixture was diluted with Water, extracted with ethyl acetate and the combined extracts washed with water and then dried over magnesium sulfate. The solvent was removed under reduced pressure and purification of the residue by column chromatography on silica gel, eluting with a mixture of ethyl acetate and cyclohexane (1:6 by volume), followed by washing with diethyl ether gave title compound as a white solid, 0.29 g.

reactant | [8-fluoro-3-(4-fluorobenzyl)-4-methyl-2-oxo-1,2-dihydroquinolin-5-yloxy]acetic acid methyl ester | 0.48 g | COC(COC1=C2C(=C(C(NC2=C(C=C1)F)=O)CC1=CC=C(C=C1)F)C)=O | C20H17F2NO4
reactant | N,N-dimethylformamide | 6.0 mL | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 0.72 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetic acid chlorodifluoromethyl ester | 1.7 mL | ClC(F)(F)OC(C)=O | C3H3ClF2O2
solvent | Water | O | H2O
product | [2-difluoromethoxy-8-fluoro-3-(4-fluorobenzyl)-4-methylquinolin-5-yloxy]acetic Acid Methyl Ester | COC(COC1=C2C(=C(C(=NC2=C(C=C1)F)OC(F)F)CC1=CC=C(C=C1)F)C)=O | C21H17F4NO4
